US04985432
In 155 ml of methanol, 5.1 g of 2-benzylthio-6-methoxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was dissolved. A suspension of 46.2 g of OXONE® in 160 ml of water was added to the methanol solution, and the mixture was stirred at 60°-65° C. for 50 minutes. After cooling, the mixture was extracted with chloroform, and the organic layer was washed with an aqueous sodium thiosulfate solution, an aqueous sodium hydrogen carbonate solution and water. After the organic phase was dried over anhydrous sodium sulfate, the solvent was distilled off and the residue was recrystallized from a toluene/ethanol mixture, and thus 2.8 g of 2-benzylsulfonyl-6-methoxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained. m.p. 204°-206° C. Yield 50%.

reactant | 2-benzylthio-6-methoxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 5.1 g | C(C1=CC=CC=C1)SC1=NN2C(=NC=C(C2=O)OC)S1 | C13H11N3O2S2
reactant | OXONE | 46.2 g | OOS(=O)[O-].[K+]
reactant | water | 160 ml | O | H2O
solvent | methanol | 155 ml | CO | CH4O
product | 2-benzylsulfonyl-6-methoxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 2.8 g, Yield 50% | C(C1=CC=CC=C1)S(=O)(=O)C1=NN2C(=NC=C(C2=O)OC)S1 | C13H11N3O4S2
